US07528142B2
6-chloro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfonyl)pyrimidin-4-amine
To a stirred suspension of 6-chloro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfinyl)pyrimidin-4-amine (8 g, 31.2 mmol) in methanol (200 ml) at 0° C. was added a suspension of Oxone (44 g, 71.7 mmol) in water (100 ml) portionwise over 10 minutes. The mixture was stirred for 30 minutes at 0° C. then warmed to ambient and stirred for an additional 2 hours. The reaction mixture was filtered and the resulting solid slurried in aqueous sodium bicarbonate. The mixture was filtered and the solid washed with water, then diethyl ether. The solid was slurried in ethyl acetate, filtered and dried. This gave the title product as an off-white solid (7.9 g, 88%); 1H NMR (d6-DMSO) δ 2.24 (3H, s), 3.35 (3H, s), 5.85 (0.5H, brs), 6.50 (0.5H, brs), 6.95 (0.5H, brs), 8.00 (0.5H, brs), 10.95 (1H, s), 12.28 (1H, s); MS ES+288.07, ES−286.25.

reactant | 6-chloro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfinyl)pyrimidin-4-amine | 31.2 mmol, 8 g | ClC1=CC(=NC(=N1)S(=O)C)NC1=CC(=NN1)C | C9H10ClN5OS
reactant | Oxone | 71.7 mmol, 44 g | OOS(=O)[O-].[K+]
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 6-chloro-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfonyl)pyrimidin-4-amine | 7.9 g, 88% | ClC1=CC(=NC(=N1)S(=O)(=O)C)NC1=CC(=NN1)C | C9H10ClN5O2S
